US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)thiophene-3-carboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide and 3-thiophene carboxylic acid using method D. NMR; δH [2H6]—DMSO 10.05,(1H, s), 8.62,(1H, t), 8.32,(1H, m), 7.93,(2H, d), 7.69,(1H, dd), 7.65-7.61,(3H, m), 7.44,(2H, d), 7.28,(1H, d), 3.16,(2H, t), 2.20,(3H, s), 1.04,(1H, m), 0.44,(2H, m), 0.24,(2H, m). LCMS: retention time 3.41 min, MH+391.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 3-thiophene carboxylic acid | S1C=C(C=C1)C(=O)O | C5H4O2S
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)thiophene-3-carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1=CSC=C1 | C23H22N2O2S
